US04762843
The free base of 4,5-dihydrothiazolo[5,4-f]quinolin-2-amine, 5.0 g (20 mmol), is refluxed in 250 ml ethanol with 6.8 g (40 mmol) of 1-iodopropane for 20 hours. The solvent is removed in-vacuo and the 2-amino-4,5-dihydrothiazolo[5,4-f]quinolinium iodide which remains is dissolved in 200 ml methanol and treated with 1.7 g (50 mmol) of sodium borohydride in small portions, at 0° C. After 1 hour, 50 ml of 10% hydrochloric acid is added dropwise and the volatile components are removed in-vacuo. The residue is made basic with ammonium hydroxide and extracted with ethyl acetate. The organic layer is dried over magnesium sulfate, evaporated and the residue is chromatographed to yield (±)-4,5,5a,6,7,8-hexahydro-6-propylthiazolo-[5,4-f]quinolin-2-amine.

reactant | 4,5-dihydrothiazolo[5,4-f]quinolin-2-amine | S1C(=NC2=C1C=1C=CC=NC1CC2)N | C10H9N3S
reactant | 1-iodopropane | 40 mmol, 6.8 g | ICCC | C3H7I
reactant | sodium borohydride | 50 mmol, 1.7 g | [BH4-].[Na+]
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | (±)-4,5,5a,6,7,8-hexahydro-6-propylthiazolo-[5,4-f]quinolin-2-amine | C(CC)N1CCC=C2C3=C(CCC12)N=C(S3)N | C13H19N3S
